* This netlist includes various files that use relative paths
* on their .INC and .LIB lines.  Note that each resistor has
* a different value, as does each parameter.  So, the values
* for the currents through each Rx or Rxa device is unique, and
* it should be obvious which file each device is using if this
* test fails.

* The currents through R1 and R1a use the "fallback paths" that are
* relative to the toplevel subdirectory, rather then the directory
* (sub1) of the include file.
.INC sub1\include1
R1a 1 0 {P1}

* The use of a .\<fileName> syntax is is tested by the current through R2
.INC .\include_dot_top

* Also test paths that are relative to sub1\include1 with the
* current through R3 and R3a.  This is the new default behavior
* for both .LIB and .INC lines.
R3a 1 0 {P3}

* Test that paths relative to sub1, for .INC and .LIB lines in a file in
* the sub1 subdirectory, take predecence over the "fallback paths" relative
* to the top-level subdirectory.  This uses the current through R4 and R4a.
R4a 1 0 {P4}

* This is used to test a ..\ syntax on a .INC line via an .INC file that
* is in the sub1\sub2 subdirectory.
.INC sub1\include1b

.DC V1 1 5 1
.PRINT DC V(1) I(R1) I(R1a) I(R2) I(R3) I(R3a) I(R4) I(R4a) I(R5)

V1 1 0 1

.END
